US06319924B1
e) N-Benzylidene-N′-[6-chloro-5-(3,6-dihydro-2H-pyridin-1-yl)pyridazin-3-yl]hydrazine
To a suspension of [6-chloro-5-(3,6-dihydro-2H-pyridin-1-yl)-pyridazin-3-yl]hydrazine (1.0 g) in 0.1 M HCl (40 ml) at room temperature was added benzaldehyde (1.05 eq.). The mixture was heated at 50° C. for 2 hours then allowed to cool, diluted with water (100 ml) and filtered. The resulting solid was dried in vacuo, and isolated as a yellow solid (1.25 g, 90%). 1H NMR (250 MHz, CDCl3) 11.65 (1H, br s), 8.31 (1H, s), 7.73 (2H, m), 7.38 (2H, m), 7.04 (1H, s), 5.97 (1H, m), 5.83 (1H, m), 3.80 (2H, m), 3.54 (2H, m), 2.40 (2H, m). MS (ES+) 314 [MH]+, 316 [MH]+.

reactant | [6-chloro-5-(3,6-dihydro-2H-pyridin-1-yl)-pyridazin-3-yl]hydrazine | 1.0 g | ClC1=C(C=C(N=N1)NN)N1CCC=CC1 | C9H12ClN5
reactant | benzaldehyde | 1.05 eq. | C(C1=CC=CC=C1)=O | C7H6O
solvent | HCl | 0.1 M, 40 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
product | N-Benzylidene-N′-[6-chloro-5-(3,6-dihydro-2H-pyridin-1-yl)pyridazin-3-yl]hydrazine | 1.25 g, 90% | C(C1=CC=CC=C1)=NNC=1N=NC(=C(C1)N1CCC=CC1)Cl | C16H16ClN5
